US04315928
To a mixture of 8.0 g (0.4 mole) of anhydrous hydrogen fluoride and 200 ml of methylene chloride in a polyethylene reactor fitted with a stainless steel stirrer and a thermocouple well was added 34.1 g (0.4 mole) of isopropyl isocyanate over a 0.5 hr. period at 0° C. The mixture was stirred for 1.5 hr at 0.2° C., and then 4-morpholinosulfenyl chloride, prepared in situ by evaporating 14.5 g (0.2 mole) of chlorine into a slurry of 47.3 g (0.2 mole) of 4,4'-dithiobismorpholine in 100 ml of methylene chloride at -10° C., followed by stirring the mixture for 0.5 hr. at -10° C. to 0° C., and then sparging it with nitrogen for 0.5 hr. Triethylamine (40.4 g, 0.4 mole) was added over a 45 minute period at -10° C. The mixture was stirred for one hour and allowed to warm to room temperature in 1 hr. Water (200 ml) was added slowly while the mixture was stirred vigorously. The organic phase was washed with water, dried with anhydrous magnesium sulfate, filtered, and concentrated to give 53.0 g yellow il, which upon recrystallization from hexane (chilled with dry-ice), yielded 24 g (27%) of product, m.p. 46°-48° C. and 1.6 g of N-(N'-isopropylcarbamoyl)-morpholine as a by-product. The desired product N-isopropyl-N'(4-morpholinosulfenyl)carbamoyl fluoride, crystallized out last.

reactant | hydrogen fluoride | 0.4 mole, 8.0 g | F | FH
reactant | isopropyl isocyanate | 0.4 mole, 34.1 g | C(C)(C)N=C=O | C4H7NO
reactant | chlorine | 0.2 mole, 14.5 g | ClCl | Cl2
reactant | 4,4'-dithiobismorpholine | 0.2 mole, 47.3 g | N1(CCOCC1)SSN1CCOCC1 | C8H16N2O2S2
reactant | Triethylamine | 0.4 mole, 40.4 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | Water | 200 ml | O | H2O
product | N-(N'-isopropylcarbamoyl)-morpholine | 1.6 g | C(C)(C)NC(=O)N1CCOCC1 | C8H16N2O2
